US08309724B2
Step A: Preparation of N′-(2-chloroacetyl)-trifluoroacetohydrazide
Hydrazine hydrate (15 g, 35 wt %) is mixed acetonitrile (22.5 mL) and cooled to about 10° C. Ethyl trifluoroacetate (23.3 g) is added over 1 hour. The resulting solution is warmed to 20° C. and stirred for about 1 hour. The solution is cooled to 0-2° C. 50 wt % aqueous NaOH (7.88 g) and chloroacetyl chloride (22.2 g) are added to the reaction solution simultaneously over 2 hours. The reaction mixture is warmed to 15-18° C. and stirred for about 5 hours. Solvent is distilled off under vacuum at about 30° C. Water (50 mL) and ethyl acetate (100 mL) are added to the obtained crude. The organic and aqueous layers are separated and aqueous layer is washed with ethyl acetate (2×50 mL). The organic layers are combined and washed with water (2×50 mL) followed by washing with 15% sodium chloride solution (2×50 mL). The combined organic layer is dried over sodium sulfate. The solvent is completely distilled off under vacuum to afford the title compound. (Yield: 98.3%)

reactant | Hydrazine hydrate | 15 g | O.NN
reactant | Ethyl trifluoroacetate | 23.3 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | NaOH | 7.88 g | [OH-].[Na+]
reactant | chloroacetyl chloride | 22.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | acetonitrile | 22.5 mL | C(C)#N | C2H3N
product | N′-(2-chloroacetyl)-trifluoroacetohydrazide | Yield: 98.3% | ClCC(=O)NNC(C(F)(F)F)=O | C4H4ClF3N2O2
